US06060488
6-Hydroxy-2-(4-Hydroxyphenyl)-3-(4-[1-Methylpiperidin-4-oxy]benzoyl)benzo[b]thiophene
6-Methoxy-2-(4-methoxyphenyl)-3-(4-[1-methylpiperidin-4-oxy]benzoyl)benzo[b]thiophene (749 mg, 1.54 mmol) was dissolved in 30 mL of methylene chloride. This solution was stirred and ethane thiol (7.68 mmol) and aluminum chloride (1.23 g, 9.22 mmol) were added. The reaction mixture was stirred vigorously for 30 minutes and then quenched with brine and saturated sodium bicarbonate. Any resulting residue was dissolved by the addition of methanol and ethyl acetate. The pH was adjusted to make it slightly basic and the mixture was diluted with 150 mL of ethyl acetate. After separation of the aqueous layer, the organic layer was washed with 75 mL of aqeous potassium sodium tartrate. The organic layer was dried over magnesium sulfate, filtered, and evaporated under reduced pressure. The residue was purified by rotary chromatography (4 mm. Plate, eluting solvent 4:1 ethyl acetate:methanol) to give 452 mg (64%) of the title compound as a yellow solid. MS(FD) 459(M+). IR (CHCl3) ν max 3221, 2960, 1598, 1467, 1241, 1166.

reactant | 6-Methoxy-2-(4-methoxyphenyl)-3-(4-[1-methylpiperidin-4-oxy]benzoyl)benzo[b]thiophene | 1.54 mmol, 749 mg | COC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OC2CCN(CC2)C)=O)C2=CC=C(C=C2)OC)C1 | C29H29NO4S
reactant | ethane thiol | 7.68 mmol | C(C)S | C2H6S
reactant | aluminum chloride | 9.22 mmol, 1.23 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 6-Hydroxy-2-(4-Hydroxyphenyl)-3-(4-[1-Methylpiperidin-4-oxy]benzoyl)benzo[b]thiophene | 452 mg, 64% | OC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OC2CCN(CC2)C)=O)C2=CC=C(C=C2)O)C1 | C27H25NO4S
